US07169928B2
3,3-Dimethylbutyl 3-piperidinopropyl ether
Sodium 3-piperidinopropanolate (5 mmol), 5 mmol of 3,3-dimethylbutyl chloride, a catalytic amount of tetrabutylammonium iodide, and 0.5 mmol of 15-crown-5 in 10 ml of dry dimethyl sulfoxide were refluxed for 12 hours. Water was added, and it was extracted with diethyl ether. The organic layer was purified by column chromatography on silica gel (eluent: methylene chloride/methanol (90/10), ammonia atmosphere). The solvent was removed under reduced pressure and the residue crystallized with oxalic acid from diethyl ether/ethanol.

reactant | Sodium 3-piperidinopropanolate | 5 mmol | N1(CCCCC1)CCC[O-].[Na+]
reactant | 3,3-dimethylbutyl chloride | 5 mmol | CC(CCCl)(C)C | C6H13Cl
reactant | 15-crown-5 | 0.5 mmol | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | Water | O | H2O
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 3,3-Dimethylbutyl 3-piperidinopropyl ether | N1(CCCCC1)CCCOCCC(C)(C)C | C14H29NO
